US08404677B2
(1-Dimethylamino-ethylidene)-2-methyl-isothiourea
To the slurry of thiourea (13.6 g, 178.6 mmol) in 130 mL DCM was added N,N-dimethylacetamide dimethylacetal (25 g, 187.6 mmol). The reaction mixture was stirred at room temperature for 5 hours. The mixture was condensed under reduced pressure providing an orange residue. To the residue was added 100 mL THF resulting orange suspension. To the suspension was added iodomethane (14.5 mL) under ice bath, and it was warmed to room temperature. The mixture was further stirred at room temperature for 2 hours resulting precipitates. The reaction was monitored by TLC. The precipitates obtained from the solution were filtered and washed with cold THF yielding pale brown solids (44.89 g, 87.5%).

reactant | thiourea | 178.6 mmol, 13.6 g | NC(=S)N | CH4N2S
reactant | N,N-dimethylacetamide dimethylacetal | 187.6 mmol, 25 g | COC(C)(N(C)C)OC | C6H15NO2
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | iodomethane | 14.5 mL | IC | CH3I
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
product | (1-Dimethylamino-ethylidene)-2-methyl-isothiourea | CN(C(C)=NC(SC)=N)C | C6H13N3S
